* Half Adder - NAND-based Implementation
XU1 A B vdd 0 N001 NAND
XU2 A B vdd 0 N002 NAND
XU3 N001 N002 vdd 0 N003 NAND
XU4 N003 vdd 0 SUM ORx
XU5 A B vdd 0 CARRY ANDx
Vdd vdd 0 5V
.tran 0 100n
.end
