* Half Adder - Basic Implementation
XU1 A vdd 0 N001 INVERT      ; A'
XU2 B vdd 0 N002 INVERT      ; B'
XU3 N001 B vdd 0 N003 ANDx   ; A'B
XU4 A N002 vdd 0 N004 ANDx   ; AB'
XU5 N003 N004 vdd 0 SUM ORx  ; Sum
XU6 A B vdd 0 CARRY ANDx     ; Carry
Vdd vdd 0 5V
.tran 0 100n
.end
